US05463150
960 g of 1,2-dichloro-1,1,4,4,4-pentafluorobutane were added dropwise to a mixture of 3 1 of distilled tetramethylene sulphone and 830 g of dried potassium fluoride at 190° C. and 1,1,1,4,4,4-hexafluorobut-2-ene was distilled off as it was formed. The product thus obtained was redistilled to give 650 g of 1,1,1,4,4,4-hexafluorobut-2-ene having a boiling point of 8° C at atmospheric pressure.

reactant | 1,2-dichloro-1,1,4,4,4-pentafluorobutane | 960 g | ClC(C(CC(F)(F)F)Cl)(F)F | C4H3Cl2F5
reactant | tetramethylene sulphone | C1CCCS1(=O)=O | C4H8O2S
reactant | potassium fluoride | 830 g | [F-].[K+]
product | 1,1,1,4,4,4-hexafluorobut-2-ene | 650 g | FC(C=CC(F)(F)F)(F)F | C4H2F6
